US06590118B1
4-(2-Aminophenoxy)phthalamide
5-(2-Aminophenoxy)-isoindole-1,3-dione (0.1 g, 0.38 mmol) in conc. ammonium hydroxide (aq) was stirred at 60° C. for two hours. The reaction mixture was evaporated in vacuo (cold in order not to make the imide again). The crude mixture was used without any purification.

reactant | 5-(2-Aminophenoxy)-isoindole-1,3-dione | 0.38 mmol, 0.1 g | NC1=C(OC=2C=C3C(NC(C3=CC2)=O)=O)C=CC=C1 | C14H10N2O3
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 4-(2-Aminophenoxy)phthalamide | NC1=C(OC=2C=C(C(C(=O)N)=CC2)C(=O)N)C=CC=C1 | C14H13N3O3
